US06335459B1
3-methoxy-2-phenylbenzoic acid ethyl ester (0.53 g) and pyridine hydrochloride (6 g) were combined under nitrogen, then heated to 180° C. for 1 hour. The melt was poured into dilute aqueous hydrochloric acid and extracted with ethyl acetate. Purification by silica gel chromatography, eluting with hexane/acetone (2:1) with 0.5% acetic acid, gave 3-hydroxy-2-phenylbenzoic acid as a white solid (0.25 g, 58%).

reactant | 3-methoxy-2-phenylbenzoic acid ethyl ester | 0.53 g | C(C)OC(C1=C(C(=CC=C1)OC)C1=CC=CC=C1)=O | C16H16O3
reactant | pyridine hydrochloride | 6 g | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
product | 3-hydroxy-2-phenylbenzoic acid | 0.25 g, 58% | OC=1C(=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C13H10O3
